US08168673B2
To a stirred solution of piperidine (0.36 mL, 3.6 mmol) in pyridine (50 mL) was added 2-(3-(2-(chlorosulfonyl)benzyl)-5-fluoro-2-methyl-1H-indol-1-yl)acetic acid ethyl ester (1.53 g, 3.6 mmol), and the resulting solution stirred at room temperature for 18 h. The mixture was then diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated copper sulfate solution (×3), dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford 2-(5-fluoro-2-methyl-3-(2-(piperidin-1-ylsulfonyl)benzyl)-1H-indol-1-yl)acetic acid ethyl ester (1.23 g, 2.60 mmol, 72%) as a yellow oil, which was used in the next step without further purification.

reactant | piperidine | 3.6 mmol, 0.36 mL | N1CCCCC1 | C5H11N
reactant | 2-(3-(2-(chlorosulfonyl)benzyl)-5-fluoro-2-methyl-1H-indol-1-yl)acetic acid ethyl ester | 3.6 mmol, 1.53 g | C(C)OC(CN1C(=C(C2=CC(=CC=C12)F)CC1=C(C=CC=C1)S(=O)(=O)Cl)C)=O | C20H19ClFNO4S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(5-fluoro-2-methyl-3-(2-(piperidin-1-ylsulfonyl)benzyl)-1H-indol-1-yl)acetic acid ethyl ester | 2.60 mmol, 1.23 g, 72% | C(C)OC(CN1C(=C(C2=CC(=CC=C12)F)CC1=C(C=CC=C1)S(=O)(=O)N1CCCCC1)C)=O | C25H29FN2O4S
